US07256178B2
(3) (8E,12E,14E)-3,16,21-tris(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide
(8E,12E,14E)-3,16,21-tris(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (129 mg, 182 μmol) was dissolved in methylene chloride (1 mL). Triethylamine (127 μL, 911 μmol) and 4-dimethylaminopyridine (67.0 mg, 548 μmol) were added to the reaction mixture, and the reaction mixture was stirred at room temperature for 30 minutes. A solution of 4-nitrophenyl chloroformate (112 mg, 556 μmol) in methylene chloride (1 mL) was added dropwise to this reaction mixture and the reaction mixture was stirred at room temperature for 3.5 hours. The reaction mixture was diluted with ethyl acetate (30 mL), and the organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (10 mL) and purified water (10 mL) twice, and with brine (10 mL). The resulting organic layer was dried over anhydrous sodium sulfate, filtered and concentrated. The resulting concentrate was purified by silica gel column chromatography (Merck Silica gel 60, 63 to 200 μm; hexane:ethyl acetate=5:1->4:1) to obtain the title compound (137 mg, 156 μmol, 85.8%) as a colorless oil.

reactant | (8E,12E,14E)-3,16,21-tris(1-ethoxyethoxy)-7-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 182 μmol, 129 mg | C(C)OC(C)OC1CC(=O)OC(C(/C=C/C(C(CC1)C)O)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C | C40H70O10
reactant | Triethylamine | 911 μmol, 127 μL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrophenyl chloroformate | 556 μmol, 112 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 548 μmol, 67.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | (8E,12E,14E)-3,16,21-tris(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-7-(4-nitrophenoxy)carboxy-18,19-epoxytricosa-8,12,14-trien-11-olide | 156 μmol, 137 mg, 85.8% | C(C)OC(C)OC1C(C(=O)OC(C(/C=C/C(C(CC1)C)OC1=CC=C(C=C1)[N+](=O)[O-])C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)(C)OC(C)OCC)\C)C(=O)O | C47H73NO14
